US04209621
6-Phenyl-1,2,4-triazolo[4,3-a]pyrimidine
A mixture of 2.5 g. of 2-hydrazino-5-phenylpyrimidine and 25 ml. of triethyl orthoformate is heated for 16 hours under reflux. The material that separates is collected and crystallized from ethanol to give 1.5 g. of the product of the Example, m.p. 231° C.

reactant | 2-hydrazino-5-phenylpyrimidine | N(N)C1=NC=C(C=N1)C1=CC=CC=C1 | C10H10N4
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
product | 6-Phenyl-1,2,4-triazolo[4,3-a]pyrimidine | C1(=CC=CC=C1)C=1C=NC=2N(C1)C=NN2 | C11H8N4
